US05206257
A solution of iodotrimethylsilane (2.83 g, 0.014 mol) in acetonitrile (5 ml) was added dropwise with stirring to a suspension of 4-(tert.butoxycarbonylamino)-5-cyano-2-(2,4-dichlorophenyl)imidazole (5.0 g, 0.014 mol) in acetonitrile (250 ml) whilst maintaining the temperature at about 0° C. The mixture was stirred at room temperature for 48 hours and the precipitated beige solid filtered off. The solid was purified by mplc on silica eluting with a mixture of ethyl acetate and hexane (1:2) to give an off-white solid which was recrystallized from ethanol to give 4-amino-5-cyano-2-(2,4-dichlorophenyl)imidazole (1.35 g) m.p. 223°-225° C. as an off-white solid.

reactant | iodotrimethylsilane | 0.014 mol, 2.83 g | I[Si](C)(C)C | C3H9ISi
reactant | 4-(tert.butoxycarbonylamino)-5-cyano-2-(2,4-dichlorophenyl)imidazole | 0.014 mol, 5.0 g | C(C)(C)(C)OC(=O)NC=1N=C(NC1C#N)C1=C(C=C(C=C1)Cl)Cl | C15H14Cl2N4O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 4-amino-5-cyano-2-(2,4-dichlorophenyl)imidazole | 1.35 g | NC=1N=C(NC1C#N)C1=C(C=C(C=C1)Cl)Cl | C10H6Cl2N4
